US05466698
Step (a): Preparation of 4-(3,6-Dihydro-4-phenyl-1(2H)-pyridinyl)-1-butyne
A solution of 3-butynyl tosylate (25.0 g, 0.11 mol), 4-phenyl-1,2,3,6-tetrahydropyridine (21.8 g, 0.11 mol) and sodium bicarbonate (10.3 g, 0.12 mol) in 300 mL of dimethylformamide is heated at 80° C. for 18 hours. The solvent is removed under reduced pressure, and the residue is partitioned between 200 mL of dichloromethane and 200 mL of water. The aqueous layer is extracted with 100 mL of dichloromethane and the combined organic layers are dried (sodium sulfate), and the solvent is removed in vacuo. The residue is chromatographed (silica 9el, 25% ethyl acetate/75% hexane) to give the title compound as a yellow solid; mp 36.5°-37.5° C.

reactant | 3-butynyl tosylate | 0.11 mol, 25.0 g | S(=O)(=O)(OCCC#C)C1=CC=C(C)C=C1 | C11H12O3S
reactant | 4-phenyl-1,2,3,6-tetrahydropyridine | 0.11 mol, 21.8 g | C1(=CC=CC=C1)C=1CCNCC1 | C11H13N
reactant | sodium bicarbonate | 0.12 mol, 10.3 g | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
product | 4-(3,6-Dihydro-4-phenyl-1(2H)-pyridinyl)-1-butyne | C1(=CC=CC=C1)C=1CCN(CC1)CCC#C | C15H17N
